* PEX produced on Mi 9. Sep 16:12:57 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_nor_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_nor_pex VDD in1 out in2 VSS
X0 VSS.t2 in2 out VSS.t1 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X1 a_n342_276# in2 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X2 VSS in1 out VSS.t7 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X3 out in2 VSS.t2 VSS.t3 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X4 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X5 a_n342_276# in1 out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X6 VSS in1 out VSS.t9 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X7 VDD in2 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X8 out in2 VSS VSS.t0 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X9 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X10 out in1 VSS VSS.t8 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X11 VSS.t2 in2 out VSS.t4 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X12 VDD in2 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X13 out in1 VSS VSS sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X14 a_n342_276# in2 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X15 a_n342_276# in1 out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
R0 VSS VSS.t7 29.1282
R1 VSS.t1 VSS 29.1277
R2 VSS VSS.t8 27.0594
R3 VSS.t3 VSS 27.0618
R4 VSS VSS.t9 43.8368
R5 VSS VSS.t4 43.8341
R6 VSS VSS.t0 43.8367
R7 VSS VSS.t2 1.14348
C0 VDD a_n342_276# 13.0188f
C1 a_n342_276# out 8.56606f
C2 in2 a_n342_276# 2.07891f
C3 VDD out 0.8123f
C4 VDD in2 3.63429f
C5 in2 out 2.01648f
C6 a_n342_276# in1 2.05947f
C7 VDD in1 2.64687f
C8 out in1 3.28385f
C9 in2 in1 0.15995f
C10 out VSS 7.99976f
C11 VDD VSS 1.82332f
C12 a_n342_276# VSS 1.20849f
C13 VSS.t2 VSS 1.3974f
.ends

