* PEX produced on Di 15. Sep 13:19:20 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_nor_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_nor_pex VDD in1 out in2 VSS
X0 VSS in2 out VSS.t2 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X1 a_n342_276# in2 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X2 VSS in1 out VSS.t8 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X3 out in2 VSS VSS.t3 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X4 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X5 a_n342_276# in1 out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X6 VSS.t11 in1 out VSS.t10 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X7 VDD in2 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X8 out in2 VSS.t1 VSS.t0 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X9 out in1 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X10 out in1 VSS VSS.t9 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X11 VSS.t5 in2 out VSS.t4 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X12 VDD in2 a_n342_276# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X13 out in1 VSS.t7 VSS.t6 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X14 a_n342_276# in2 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X15 a_n342_276# in1 out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
R0 VSS VSS.t6 43.8368
R1 VSS.t9 VSS 27.0598
R2 VSS VSS.t3 27.0605
R3 VSS.t0 VSS 43.8366
R4 VSS VSS.t10 43.8373
R5 VSS.t4 VSS 43.8371
R6 VSS.t2 VSS 29.1267
R7 VSS.t8 VSS 29.1285
R8 VSS.t7 VSS 2.79469
R9 VSS.t7 VSS 8.49407
R10 VSS.t11 VSS 2.69514
R11 VSS VSS.t1 2.09855
R12 VSS.t5 VSS 2.11544
C0 out in2 2.02829f
C1 a_n342_276# in2 1.9587f
C2 in1 VDD 2.59127f
C3 out a_n342_276# 8.6907f
C4 VDD in2 3.36134f
C5 out VDD 0.65359f
C6 VDD a_n342_276# 8.68022f
C7 in1 in2 0.15995f
C8 out in1 3.30809f
C9 in1 a_n342_276# 2.06443f
C10 out VSS 6.02807f
C11 VDD VSS 1.7885f
C12 a_n342_276# VSS 1.03519f
.ends

